US08048887B2
To a 2 mL microwave vial was added dioxane (2 mL), water (0.200 mL), (S-Phos) dicyclohexyl (2′,6′-dimethoxybiphenyl-2-yl)phosphine, (1.912 mg, 4.66 mmol), 5-(4-chloro-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.0126 g, 0.023 mmol), potassium phosphate tribasic (0.020 g, 0.093 mmol), palladium(II) acetate (1.046 mg, 4.66 μmol), and phenylboronic acid (8.52 mg, 0.070 mmol). The vial was capped, degassed, flushed with N2 and heated in the microwave for 10 minutes at 150° C. The crude product was taken up in a 1:1 solution of DMF/acetonitrile and purified by a Shimadzu preparative HPLC employing acetonitrile/0.1% TFA/water where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid with a Waters-Atlantis OBD 19×100 mm 5 μm column at a gradient of 50-100% B and a flow rate of 25 mL/min. over 10 minutes with a 10 minute hold. The purified product was evaporated to dryness overnight in a Savant Thermo SPEEDVAC® to give a 73% yield of 2-(4-fluorophenyl)-N-methyl-5-(2-(2-phenylpropan-2-ylcarbamoyl)biphenyl-4-yl) benzofuran-3-carboxamide. The NMR spectrum was recorded at room temperature using a Bruker DRX500 spectrometer. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 220 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (500 MHz, CD3OD) δ ppm 1.54 (s, 6H), 3.01 (s, 3H), 7.15-7.20 (m, 1H), 7.21-7.33 (m, 6H), 7.43-7.50 (m, 3H), 7.51-7.55 (m, 3H), 7.69-7.72 (m, 1H), 7.72-7.76 (m, 1H), 7.80 (d, J=1.53 Hz, 1H), 7.84 (dd, J=7.93, 1.83 Hz, 1H), 7.96-8.02 (m, 3H), 8.10 (br. s., 1H). LCMS m/z 583.03 (M+H), Rt 2.811 min. HPLC Rt 11.683 min. (Sunfire C18) and 12.609 min. (XBridge phenyl C18), 99% purity.

reactant | dicyclohexyl (2′,6′-dimethoxybiphenyl-2-yl)phosphine | 4.66 mmol, 1.912 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 5-(4-chloro-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.023 mmol, 0.0126 g | ClC1=C(C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C(NC(C)(C)C1=CC=CC=C1)=O | C32H26ClFN2O3
reactant | potassium phosphate tribasic | 0.093 mmol, 0.020 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 0.070 mmol, 8.52 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium(II) acetate | 4.66 μmol, 1.046 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.200 mL | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenyl)-N-methyl-5-(2-(2-phenylpropan-2-ylcarbamoyl)biphenyl-4-yl) benzofuran-3-carboxamide | 73% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C38H31FN2O3
